US04386211
To a stirred solution of 6.10 g (40.5 mmole) of 5-amino-3-methylisothiazole hydrochloride in 200 ml of dry pyridine is added slowly 13.8 g (127 mmole) of ethyl chloroformate. After 2 days the reaction mixture is treated with 20 ml each of water and ethanol. After 40 min., the solution is concentrated in vacuo to a gum, which is further dried by several evaporations of aqueous ethanol. The crude product is dissolved in 75 ml of boiling ethanol to which is added water until the solution clouds. Upon cooling a crystaline solid containing some diacylated material is collected, redissolved in 100 ml of isopropyl alcohol, and treated with 40 ml of approximately 7 N HCl in isopropyl alcohol. After about 2 hours, the solution is concentrated at reduced pressure to an oily residue which is dried by multiple evaporation of ethanol. A solution of the crude solid in approximately 100 ml of water is adjusted to about pH 7 by addition of 2 N aqueous sodium hydroxide, giving the product as a precipitate. After washing with water and drying, 4.71 g (25.3 mmole) of 5-carbethoxyamino-3-methylisothiazole is obtained. Structure assignment is supported by the nmr spectrum.

reactant | 5-amino-3-methylisothiazole hydrochloride | 40.5 mmole, 6.10 g | Cl.NC1=CC(=NS1)C
reactant | ethyl chloroformate | 127 mmole, 13.8 g | ClC(=O)OCC | C3H5ClO2
reactant | water | 20 ml | O | H2O
reactant | ethanol | C(C)O | C2H6O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 5-carbethoxyamino-3-methylisothiazole | 25.3 mmole, 4.71 g | C(=O)(OCC)NC1=CC(=NS1)C | C7H10N2O2S
